US07504408B2
4-{6-chloro-7-[(6,7-dimethoxyquinazolin-4-yl)amino]-1,3-benzodioxol-4-yl}-2-methylbut-3-yn-2-ol
A solution of sodium bis(trimethylsilyl)amide (1.5 ml) in tetrahydrofuran (1.0M, 1.5 mmol) was added over 5 min. to a stirred mixture of 4-(7-amino-6-chloro-1,3-benzodioxol-4yl)-2-methylbut-3-yn-2-ol (0.186 g) and 4-chloro-6,7-dimethoxyquinazoline (0.150 g) in DMF (6.5 ml) cooled to 0° C. under a nitrogen atmosphere. The mixture was stirred for 1 hr at ambient temperature. The reaction mixture was diluted with saturated aqueous ammonium chloride (70 ml) and extracted with ethyl acetate (3×30 ml). The organic extracts were washed with brine (20 ml), dried over sodium sulphate and then evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of ethyl acetate and isohexane as eluent. There was thus obtained the title compound as a solid (0.150 g). NMR Spectrum: (DMSOd6) 1.47 (s, 6H), 3.90 (s, 3H), 3.91 (s, 3H), 5.50 (s, 1H), 6.13 (s, 2H), 7.04 (s, 1H), 7.17 (s, 1H), 7.80 (s, 1H), 8.31 (s, 1H), 9.48 (s, 1H); Mass Spectrum: M+H+ 442 and 444.

reactant | sodium bis(trimethylsilyl)amide | 1.5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 1.5 mmol, 1.0M | O1CCCC1 | C4H8O
reactant | 4-(7-amino-6-chloro-1,3-benzodioxol-4yl)-2-methylbut-3-yn-2-ol | 0.186 g | NC1=C(C=C(C2=C1OCO2)C#CC(C)(O)C)Cl | C12H12ClNO3
reactant | 4-chloro-6,7-dimethoxyquinazoline | 0.150 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | DMF | 6.5 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | 70 ml | [Cl-].[NH4+]
product | 4-{6-chloro-7-[(6,7-dimethoxyquinazolin-4-yl)amino]-1,3-benzodioxol-4-yl}-2-methylbut-3-yn-2-ol | 0.150 g | ClC=1C=C(C2=C(OCO2)C1NC1=NC=NC2=CC(=C(C=C12)OC)OC)C#CC(C)(O)C | C22H20ClN3O5
